US04517195
1-[N-Methyl-(t-butoxycarbonylamino)acetamido]-2-(2-chlorobenzoyl)pyrrole
2-(2-Chlorobenzoyl)-1-methylaminopyrrole (23.7 g, 0.10 mol) and tert-butoxycarbonyl glycine (19.26 g. 0.11 mol) are combined in 250 ml of dichloromethane followed by addition of dicyclohexylcarbodiimide (23.7 g, 0.115 mol) over 3 minutes. The mixture was stirred at ambient temperature for 5 hours and thereafter filtered and evaporated to give 35 g of oil. This oil was purified by HPLC (silica, 2:1 hexane-ethyl acetate) to give 28 g of solid. This material was recrystallized from ether to give 26.5 g (68%) of cubes, m.p. 131°-133°.

reactant | 2-(2-Chlorobenzoyl)-1-methylaminopyrrole | 0.10 mol, 23.7 g | ClC1=C(C(=O)C=2N(C=CC2)NC)C=CC=C1 | C12H11ClN2O
reactant | tert-butoxycarbonyl glycine | 0.11 mol, 19.26 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | dicyclohexylcarbodiimide | 0.115 mol, 23.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1-[N-Methyl-(t-butoxycarbonylamino)acetamido]-2-(2-chlorobenzoyl)pyrrole | 35 g | CN(C(CNC(=O)OC(C)(C)C)=O)N1C(=CC=C1)C(C1=C(C=CC=C1)Cl)=O | C19H22ClN3O4
